US08084484B2
e) Ethyl 2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoate
A solution of Ethyl 2-(3,4-diaminophenyl)propanoate (217 mg, 1.04 mmol) in CH2Cl2 (4 mL) was added 1,1′-carbonyldiimidazole (189 mg) and DBU (330 mg, in CH2Cl2 (4 mL)) at room temperature.

reactant | Ethyl 2-(3,4-diaminophenyl)propanoate | 1.04 mmol, 217 mg | NC=1C=C(C=CC1N)C(C(=O)OCC)C | C11H16N2O2
reactant | 1,1′-carbonyldiimidazole | 189 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DBU | 4 mL, 330 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(2,3-dihydro-2-oxo-1H-benzo[d]imidazol-5-yl)propanoate | O=C1NC2=C(N1)C=CC(=C2)C(C(=O)OCC)C | C12H14N2O3
